US08614226B2
A solution of 219 mg (0.44 mmol) 2-(2-fluoro-phenyl)-4-(5-{1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-pyrazol-4-yl}-pyridin-3-yl)-[1,8]naphthyridine in 7 ml dichloromethane was treated with 0.52 ml of a 4 N solution of hydrochloric acid in dioxane. The reaction mixture was stirred for 60 minutes and the precipitate that had formed was filtered off. The residue was dissolved in water and treated with saturated sodium carbonate solution. The resulting precipitate was filtered off, washed with water and dried under vacuum yielding 2-(4-{5-[2-(2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-3-yl}-pyrazol-1-yl)-ethanol as colorless crystals; HPLC-MS: 1.70 min, [M+H] 412.

reactant | 2-(2-fluoro-phenyl)-4-(5-{1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-pyrazol-4-yl}-pyridin-3-yl)-[1,8]naphthyridine | 0.44 mmol, 219 mg | FC1=C(C=CC=C1)C1=NC2=NC=CC=C2C(=C1)C=1C=NC=C(C1)C=1C=NN(C1)CCOC1OCCCC1 | C29H26FN5O2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-{5-[2-(2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-3-yl}-pyrazol-1-yl)-ethanol | FC1=C(C=CC=C1)C1=NC2=NC=CC=C2C(=C1)C=1C=C(C=NC1)C=1C=NN(C1)CCO | C24H18FN5O
